US05164520
[3S-(3α,4β,5 α)]-4-Amino-5-iodo-1-[tetrahydro-4,5-bis(hydroxymethyl)-3-furanyl]-2(1H)-pyrimidinone
To a solution of [3S-(3α,4β,5α)]-4-amino-1-[tetrahydro-4,5-bis(hydroxymethyl)-3-furanyl]-2(1H)-pyrimidinone (96.5 mg, 0.4 mmol) in water (160 ml), acetic acid (320 μl) and carbon tetrachloride (80 μl) was added iodic acid (36 mg, 0.204 mmol) and iodine (60 mg, 0.236 mmol). The resulting mixutre was heated at 50° C. for 2 hours and it was then concentrated in vacuo to yield a dark residue. The excess iodine was removed from the residue by azeotroping several times with methanol. The crude material was dissolved in water (3 ml), and the pH was adjusted to 7 with 1 N sodium hydroxide. The aqueous mixture was purified on a CHP-20P resin column (Mitsubishi Chemical Co., 75-150 μ, 20 ml) eluting with water (150 ml) and then 5% acetonitrile/water (300 ml). The appropriate fractions were combined, the volatiles were removed in vacuo, and the residue dissolved in water and lyophilized to give the title compound (55 mg) as a colorless solid. Proton NMR (270 MHz, DMSO-d6) δ:8.16 (s, 1H), 7.65 (brs, 1H), 6.50 (brs, 1H), 4.92 (t, J=5.2 Hz, 1H), 4.87 (m, 1H), 4.80 (t, J=5.2 Hz, 1H), 3.60-3.90 (m, 4H), 3.51 (m, 3H), 2.24 (m, 1H); M.P.=212°-216° C. (dec.).

reactant | [3S-(3α,4β,5α)]-4-amino-1-[tetrahydro-4,5-bis(hydroxymethyl)-3-furanyl]-2(1H)-pyrimidinone | 0.4 mmol, 96.5 mg | C1C([C@@H]([C@H](O1)CO)CO)N2C=CC(=NC2=O)N | C10H15N3O4
reactant | iodic acid | 0.204 mmol, 36 mg | I(=O)(=O)O | HIO3
reactant | iodine | 0.236 mmol, 60 mg | II | I2
solvent | water | 160 ml | O | H2O
solvent | acetic acid | 320 μl | C(C)(=O)O | C2H4O2
solvent | carbon tetrachloride | 80 μl | C(Cl)(Cl)(Cl)Cl | CCl4
product | [3S-(3α,4β,5 α)]-4-Amino-5-iodo-1-[tetrahydro-4,5-bis(hydroxymethyl)-3-furanyl]-2(1H)-pyrimidinone | 55 mg | C1[C@H]([C@@H]([C@H](O1)CO)CO)N2C=C(C(=NC2=O)N)I | C10H14IN3O4
